US08604029B2
2-Hydroxy-4-nitro-benzoyl chloride (0.82 g, 4.07 mmol) in THF (15 mL) was added portionwise to a solution of 4-hydroxytetrahydropyran (0.8 mL, 8.1 mmol) in pyridine (4 μL) at 0° C., followed by a catalytic amount of 4-(dimethylamino)-pyridine (DMAP). The mixture was maintained overnight at 40-50° C. then diluted with water and extracted with ethyl acetate. The organic extract was washed successively with saturated sodium bicarbonate solution, water and brine solution, dried and concentrated to give a residue which was triturated with a mixture of DCM and petroleum ether. The residue was purified by flash column chromatography on silica, eluting with ethyl acetate/petroleum ether (2-15%) to give 2-hydroxy-4-nitro-benzoic acid tetrahydro-pyran-4-yl ester (0.32 g, 29%).

reactant | 2-Hydroxy-4-nitro-benzoyl chloride | 4.07 mmol, 0.82 g | OC1=C(C(=O)Cl)C=CC(=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 4-hydroxytetrahydropyran | 8.1 mmol, 0.8 mL | OC1CCOCC1 | C5H10O2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | pyridine | 4 μL | N1=CC=CC=C1 | C5H5N
catalyst | 4-(dimethylamino)-pyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | O | H2O
product | 2-hydroxy-4-nitro-benzoic acid tetrahydro-pyran-4-yl ester | 0.32 g, 29% | O1CCC(CC1)OC(C1=C(C=C(C=C1)[N+](=O)[O-])O)=O | C12H13NO6
